datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[Si](C)(C)C12[C:62]3([CH:11]=[CH2:10])[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])C#[O+].[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C=C[CH:20]1C2C3C54>>C[Si](C)(C)C12[C:62]3([CH+:11][CH2:10][CH:20]4C=CC5C6C7C4[Fe-3:21]567(C#[O+])(C#[O+])C#[O+])[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21"
"CC[O:33][C:22](/[CH:21]=[CH:20]\[C:41](=[O:42])[O:52]CC)=[O:23].O=[N+]([O-])C1=CC=C([C:61]([O-:10])=[O:62])C=C1>>CC[O:33][C:22](=[CH:21][CH:20]([O:10][C:61](C1=CC=C([N+](=O)[O-])C=C1)=[O:62])[C:41](=[O:42])[O:52]CC)[O-:23] 10=20;20,21=21,22;22,23=23"
"C1C[O:33][C:22](=[O:23])[CH:21]=[CH:20]1.C[C:11]1=[N:10][CH:61]=[C:62](C)[NH:12]1>>C[C:11]1=[NH+:12][C:62](C)=[CH:61][N:10]1[CH:20]1CC[O:33][C:22]([O-:23])=[CH:21]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C[Si](C)(C)C12[C:31]3([CH2+:20])[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+].FC(F)(F)[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1>>C[Si](C)(C)C12[C:31]3([CH2:20][S:10][C:61]4=[CH:62][CH:63]=[C:64](C(F)(F)F)[CH:73]=[CH:72]4)[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+] 10=20
"F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1.[H:10][CH:11]([CH:12]=[CH2:13])[CH:62]=[CH2:63]>>F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1.[CH:11](=[CH:12][CH2+:13])[CH:62]=[CH2:63] 10,11=10,20;12,13=11,12"
"CC[O:73][C:61](/[C:10](Cl)=[C:11](\[O-:12])[O:82]CC)=[O:62].C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1>>CC[O:73][C:61]([C:10](Cl)([C:11](=[O:12])[O:82]CC)[CH:20]([O:21]C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1)=[O:62] 10,11=10,20;12=11,12;20,21=21"
"CC[O:82][C:71]([C-:10](C1CCCCC1)[C:61](=[O:62])[O:112]CC)=[O:72].FC1=CC(F)=CC(C2C3[CH:20](C4=CC(F)=CC(F)=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=C1>>CC[O:82][C:71]([C:10](C1CCCCC1)([CH:20](C1=CC(F)=CC(F)=C1)C1C(C2=CC(F)=CC(F)=C2)[Pd-2:21]1([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:61](=[O:62])[O:112]CC)=[O:72] 10=20;20,21=21"
"C1CCN(C[C@@H]2CCC[NH:10]2)C1.C[CH:20]=[N+:21]1C2=CC=CC=C2C2=C1C=CC=C2>>C[CH:20]([NH+:10]1CCC[C@H]1CN1CCCC1)[N:21]1C2=CC=CC=C2C2=C1C=CC=C2 10=20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[O+:21]C)[CH:35]=[CH:36]1.C[Si:73](C)(C)[O:12][C:11]1=[CH:10]CCC[O:63]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2CCC[O:63][C:11]2=[O+:12][Si:73](C)(C)C)[O:21]C)[CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21"
"C[C:21]1=[CH:20]CCC[C:22]1=[O:23].N#C[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>C[C:21]1=[C:22]([O-:23])CCC[CH:20]1[CH:10]1[CH:11]=[NH+:12][C:62]2=[C:61]1[CH:72]=[C:73](C#N)[CH:64]=[CH:63]2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[CH:11]=[CH2:10].[C:20](=[S:21])=[S:31]>>C[CH+:11][CH2:10][C:20]([S-:21])=[S:31] 10,11=10,20;20,21=21"
"CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]=[N:21]1.[O:10]=[C:11]1[CH:12]=[CH:13][N-:14][CH:63]=[CH:62]1>>CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]([O:10][C:11]2=[CH:12][CH:13]=[N:14][CH:63]=[CH:62]2)[N-:21]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"CC[O:92][C:71]([CH-:10][C:61]1=[CH:62][CH:63]=[C:64](Br)[CH:83]=[CH:82]1)=[O:72].C[N+:23]1=[C:22]2C=CC=C[C:21]2=[CH:20][C:31]2=[C:32]1C=CC=C2>>CC[O:92][C:71]([CH:10]([CH:20]1[C:21]2=[C:22](C=CC=C2)[N:23](C)[C:32]2=[C:31]1C=CC=C2)[C:61]1=[CH:62][CH:63]=[C:64](Br)[CH:83]=[CH:82]1)=[O:72] 10=20;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1.C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([H:10])[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1.C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2 10,11=10,20;12=11,12"
"CC12C3(C)C4(C)C5(C)C1(C)[Os-2:11]2345(C#[O+])(C#[O+])[H:10].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1>>CC12C3(C)C4(C)C5(C)C1(C)[Os-:11]2345(C#[O+])C#[O+].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1.COCC[NH:10]CCOC>>COCC[NH+:10](CCOC)[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N2CCCC2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N2CCCC2)[CH:45]=[CH:46]1 10=20
